US09382188B2
B) 2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-thiol
To a solution of (2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)(4-methoxybenzyl)sulfane (1.68 g) in trifluoroacetic acid (6.6 mL) was added anisole (2.15 mL) at room temperature, and the mixture was stirred at 90° C. for 8 hr. The reaction mixture was cooled to 0° C., neutralized with 8N aqueous sodium hydroxide solution, and extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous sodium sulfate. The solvent was evaporated under reduced pressure and the residue was purified by silica gel column chromatography (NH, ethyl acetate/hexane) to give the title compound (918 mg) as a pale-yellow oil.

reactant | (2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-yl)(4-methoxybenzyl)sulfane | 1.68 g | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)SCC1=CC=C(C=C1)OC)CC(C)(C)C | C26H29FO2S
reactant | anisole | 2.15 mL | C1(=CC=CC=C1)OC | C7H8O
reactant | sodium hydroxide | 8N | [OH-].[Na+]
solvent | trifluoroacetic acid | 6.6 mL | FC(C(=O)O)(F)F | C2HF3O2
product | 2′-fluoro-5′-methoxy-2-neopentyl-[1,1′-biphenyl]-4-thiol | 918 mg | FC1=C(C=C(C=C1)OC)C1=C(C=C(C=C1)S)CC(C)(C)C | C18H21FOS
